### PR TITLE
[Merged by Bors] - refactor(Algebra/Group/AddChar): reimplement using structures

### PR DESCRIPTION
**Pull request by loefflerd**
Following discussion at #11313 this is an attempt to refactor `Algebra/Group/AddChar.lean` such that `AddChar A M` is a structure in its own right rather than a type synonym for `Multiplicative A →* M`. 

We also relax typeclass assumptions considerably (only assuming commutativity, etc, where it is really needed) and add some new functionality, e.g. composition with monoid morphisms on either side (`MonoidHom.compAddChar` and `AddChar.compAddMonoidHom`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/AddChar.lean [hunk 1]
```diff
@@ -31,170 +30,232 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
+variable (M : Type*) [Monoid M]
+
+/-- `AddChar A M` is the type of maps `A → M`, for `A` an additive monoid and `M` a multiplicative
+monoid, which intertwine addition in `A` with multiplication in `M`.
+
+We only put the typeclasses needed for the definition, although in practice we are usually
+interested in much more specific cases (e.g. when `A` is a group and `M` a commutative ring).
+ -/
+structure AddChar where
+  /-- The underlying function. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/AddChar.lean:54]:
```suggestion
  /-- The underlying function.
  
  Do not use this function directly. Instead use the coercion coming from the `FunLike`
  instance. -/
```

File: Mathlib/Algebra/Group/AddChar.lean [hunk 2]
```diff
@@ -31,170 +30,232 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
+  toFun : A → M
+  /-- The function maps `0` to `1`. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/AddChar.lean:56]:
```suggestion
  /-- The function maps `0` to `1`.
  
  Do not use this directly. Instead use `AddChar.map_zero_one`. -/
```

File: Mathlib/Algebra/Group/AddChar.lean [hunk 3]
```diff
@@ -31,170 +30,232 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
+  map_zero_one' : toFun 0 = 1
+  /- The function maps addition in `A` to multiplication in `M`. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/AddChar.lean:58]:
```suggestion
  /- The function maps addition in `A` to multiplication in `M`.
  
  Do not use this directly. Instead use `AddChar.map_add_mul`. -/
```

File: Mathlib/Algebra/Group/AddChar.lean [hunk 4]
```diff
@@ -31,170 +30,232 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
--- this instance was a bad idea and conflicted with `instFunLike` above
-#noalign add_char.monoid_hom_class
+instance instInhabited : Inhabited (AddChar A M) := ⟨1⟩
 
--- Porting note(https://github.com/leanprover-community/mathlib4/issues/5229): added.
-@[ext]
-theorem ext (f g : AddChar A M) (h : ∀ x : A, f x = g x) : f = g :=
-  MonoidHom.ext h
+/-- Composing a `MonoidHom` with an `AddChar` yields another `AddChar`. -/
+def monoidHom_comp {N : Type*} [Monoid N] (f : M →* N) (φ : AddChar A M) : AddChar A N :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/AddChar.lean:154]:
```suggestion
def monoidHomComp {N : Type*} [Monoid N] (f : M →* N) (φ : AddChar A M) : AddChar A N :=
```

Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:161]: This doesn't seem to match conventions elsewhere in the library, e.g. [ContinuousAt.comp_continuousWithinAt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousOn.html#ContinuousAt.comp_continuousWithinAt). (There is no object called a `MonoidHomComp`.)

Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:158]: (Perhaps this shouldn't be in the `AddChar` namespace at all, but should be called `MonoidHom.comp_addChar`?)

File: Mathlib/Algebra/Group/AddChar.lean [hunk 5]
```diff
@@ -31,170 +30,236 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
+@[simp] lemma toMonoidHom_apply (ψ : AddChar A M) (a : Multiplicative A) : ψ.toMonoidHom a = ψ a :=
   rfl
-#align add_char.coe_to_fun_apply AddChar.coe_to_fun_apply
+#align add_char.coe_to_fun_apply AddChar.toMonoidHom_apply
 
--- Porting note: added
-theorem mul_apply (ψ φ : AddChar A M) (a : A) : (ψ * φ) a = ψ a * φ a :=
-  rfl
+/-- An additive character maps multiples by natural numbers to powers. -/
+@[simp] lemma map_nsmul_pow (ψ : AddChar A M) (n : ℕ) (x : A) : ψ (n • x) = ψ x ^ n :=
```
Comment (faenuccio) [inline Mathlib/Algebra/Group/AddChar.lean:115]: Not sure whether this should really be a `simp`  lemma: it does not hurt much but I am not sure the LHS is more complex than the RHS.

File: Mathlib/Algebra/Group/AddChar.lean [hunk 6]
```diff
@@ -31,170 +30,236 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
+/-- Interpret an additive character as a monoid homomorphism. -/
+def toAddMonoidHom (φ : AddChar A M) : A →+ Additive M where
+  toFun := φ.toFun
+  map_zero' := φ.map_zero_one'
+  map_add' := φ.map_add_mul'
+
+variable (A M) in
+/-- Additive characters `A → M` are the same thing as additive homomorphisms from `A` to
+`Additive M`. -/
+def toAddMonoidHomEquiv : AddChar A M ≃ (A →+ Additive M) where
```
Comment (faenuccio) [inline Mathlib/Algebra/Group/AddChar.lean:140]: Isn't it a bit asymmetric that for the map to ` Multiplicative A -> M`  we only have the equivalence and for the other one both? Perhaps it is enough to pack `toAddMonoidHom` in the equivalence and use that when needed.

File: Mathlib/Algebra/Group/AddChar.lean [hunk 7]
```diff
@@ -31,170 +30,236 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
 
-theorem inv_apply (ψ : AddChar A M) (x : A) : ψ⁻¹ x = ψ (-x) :=
-  rfl
+/-- When `M` is commutative, `AddChar A M` is a commutative monoid. -/
+instance instCommMonoid : CommMonoid (AddChar A M) := (toMonoidHomEquiv A M).commMonoid
+
+-- Porting note: added
+@[simp] lemma mul_apply (ψ φ : AddChar A M) (a : A) : (ψ * φ) a = ψ a * φ a := rfl
+
+@[simp] lemma pow_apply (ψ : AddChar A M) (n : ℕ) (a : A) : (ψ ^ n) a = (ψ a) ^ n := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/Group/AddChar.lean:193]: Again for this one, I am not sure whether it should be a `simp`.

File: Mathlib/Algebra/Group/AddChar.lean [hunk 8]
```diff
@@ -31,170 +30,236 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
+  simp only [← map_add_mul, add_left_neg, map_zero_one]
 
-variable {A : Type u} [AddMonoid A] {M : Type v} [CommMonoid M]
+/-- An additive character maps integer scalar multiples to integer powers. -/
+@[simp] lemma map_zsmul_zpow (ψ : AddChar A M) (n : ℤ) (a : A) : ψ (n • a) = (ψ a) ^ n :=
+  ψ.toMonoidHom.map_zpow a n
+#align add_char.map_zsmul_zpow AddChar.map_zsmul_zpow
 
-/-- An additive character is *nontrivial* if it takes a value `≠ 1`. -/
-def IsNontrivial (ψ : AddChar A M) : Prop :=
```
Comment (faenuccio) [inline Mathlib/Algebra/Group/AddChar.lean:172]: Why do you want to remove this?

**Review by faenuccio — COMMENTED** [review]
I am fine with most changes, apart from some comments. But I come back to my question in the previous PR, as I am not entirely sure that defining this structure is really the best approach. It puts a lot of focus on the distinction between "additive" and "multiplicative"  structures, which are generally treated on an equal footing in mathlib, the difference being most of the time only of syntactic, rather than semantic, nature. To me, it is still more natural to *define* them as homs to the add-version of the codomain.

File: Mathlib/Algebra/Group/AddChar.lean (hunk 8 above)
Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:172]: I'm not removing it, just moving it to a different section since it is valid under weaker typeclass assumptions (the definition makes sense without needing to assume that `A` or `M` to be a group).

File: Mathlib/Algebra/Group/AddChar.lean (hunk 7 above)
Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:193]: The LHS involves the monoid structure on `AddChar A M`, the RHS only the monoid structure on `M`, so I think it is fair to describe the RHS being simpler.

File: Mathlib/Algebra/Group/AddChar.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:115]: OK, fair point

File: Mathlib/Algebra/Group/AddChar.lean (hunk 6 above)
Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:140]: Fair enough, we can have `toAddMonoidHom` as a separate def, we may as well maintain symmetry.

File: Mathlib/Algebra/Group/AddChar.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/Algebra/Group/AddChar.lean:193]: I see what you mean, but I wonder (and really have no strong opinion) if for the user seeing all the LHS become the RHS is what is hoped for. Of course one can always revert or use a `simp only` to avoid some of these to fire, but to me both sides seem of potentially equal utility.

File: Mathlib/Algebra/Group/AddChar.lean (hunk 8 above)
Comment (faenuccio) [reply Mathlib/Algebra/Group/AddChar.lean:172]: Oh, I did not find the moved version, that's why I was asking. Sorry for the noise.

File: Mathlib/Algebra/Group/AddChar.lean (hunk 6 above)
Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:140]: ... I went to add this and realised it was already there? We have all four of `toAddMonoidHom`, `toAddMonoidHomEquiv`, `toMonoidHom`, and `toMonoidHomEquiv`. 

The one thing that is asymmetric is `toMonoidHomMulEquiv` (upgrading the `Equiv` to a `MulEquiv`) but that is because the choice to write the group law on `AddChar`'s as multiplication breaks the symmetry. I suppose we could have `toAddMonoidHomAddEquiv : Additive (AddChar A M) →+ (A →+ Additive M)` but I'm not sure how likely this is to be useful.

Comment (faenuccio) [reply Mathlib/Algebra/Group/AddChar.lean:140]: I agree, probably not too useful.

File: Mathlib/Algebra/Group/AddChar.lean (hunk 7 above)
Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:193]: I'm thinking of this as a modified version of things like `Pi.add_apply` etc, which are all `simp`s.

File: Mathlib/Algebra/Group/AddChar.lean (hunk 6 above)
Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:142]: I added it anyway, for the following reason: it will make life easier if Yaël carries through his plan to rewrite `AddChar A M` as an additive rather than multiplicative monoid.

**Comment by YaelDillies** [comment]
The PR description is outdated as it still mentions `comp_monoidHom`

**Comment by loefflerd** [comment]
> The PR description is outdated as it still mentions `comp_monoidHom`

I have no idea what you mean there. There never was a `comp_monoidHom`; probably you mean `comp_addMonoidHom`. You suggested a renaming from `comp_addMonoidHom` to `compAddMonoidHom`, but I disagreed with the suggestion (giving reasons, see above) and I have not implemented it. So nothing is outdated. (There was a typo in the PR description which I have corrected.)

**Comment by YaelDillies** [comment]
Ah sorry, it's hard to navigate the PR on the mobile app. Anyway, you should comply with the casing convention.

File: Mathlib/Algebra/Group/AddChar.lean [hunk 9]
```diff
@@ -31,170 +30,248 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
+
+/-- `AddChar A M` is the type of maps `A → M`, for `A` an additive monoid and `M` a multiplicative
+monoid, which intertwine addition in `A` with multiplication in `M`.
+
+We only put the typeclasses needed for the definition, although in practice we are usually
+interested in much more specific cases (e.g. when `A` is a group and `M` a commutative ring).
+ -/
+structure AddChar where
+  /-- The underlying function.
+  Do not use this function directly. Instead use the coercion coming from the `FunLike`
```
Comment (MichaelStollBayreuth) [inline Mathlib/Algebra/Group/AddChar.lean:55]: Should an empty line be added here (and similarly below), to get a separate paragraph in the docstring as shown on hover or in the HTML docs?

File: Mathlib/Algebra/Group/AddChar.lean [hunk 10]
```diff
@@ -31,170 +30,248 @@ see `Mathlib.NumberTheory.LegendreSymbol.AddCharacter`.
...
-After we have proved the API lemmas below, we don't need to worry about writing `ofAdd a`
-when we want to apply an additive character. -/
-instance instFunLike : FunLike (AddChar A M) A M :=
-  inferInstanceAs (FunLike (Multiplicative A →* M) A M)
-#noalign add_char.has_coe_to_fun
+-- this instance was a bad idea and conflicted with `instFunLike` above
+#noalign add_char.monoid_hom_class
 
-theorem coe_to_fun_apply (ψ : AddChar A M) (a : A) : ψ a = ψ.toMonoidHom (ofAdd a) :=
+@[simp] lemma toMonoidHom_apply (ψ : AddChar A M) (a : Multiplicative A) : ψ.toMonoidHom a = ψ a :=
```
Comment (MichaelStollBayreuth) [inline Mathlib/Algebra/Group/AddChar.lean:110]: Shouldn't the last `a` be of type `A` instead of `Mulitplicative A`? My understanding is that defeq abuse should be avoided in statements.

**Review by MichaelStollBayreuth — APPROVED** [review]
Modulo the comment on `toMonoidHom_apply`, I think this looks good.

File: Mathlib/Algebra/Group/AddChar.lean (hunk 9 above)
Comment (loefflerd) [reply Mathlib/Algebra/Group/AddChar.lean:55]: There was originally, but the linter flags it as a formatting error.

**Comment by MichaelStollBayreuth** [comment]
> To me, it is still more natural to _define_ them as homs to the add-version of the codomain.

So far, they are actually defined as homs from the mul-version of the domain. What I do like about this refactor is that it restores some symmetry, which is broken by the decision to change from additive to multiplicative in the domain rather than from multplicative to additive in the codomain.

I'm going to maintainer merge this PR, as I think the points that were raised have been addressed.

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
